US06043365
A solution of 46.0 g of (R)-4-phenyl-2-oxazolidinone in 300 g (338 mL) of peroxide-free tetrahydrofuran is cooled to -5 to 0° C. (bath temperature -10 to -5° C.) over a period of 15 minutes. 145.2 g (166.8 mL) of 25% w/w potassium t-amylate/toluene solution is added over a period of 25 minutes while maintaining an internal temperature below 0° C. The reaction mixture is warmed to 20±5° C. within 1 hour and stirred at this temperature for 2.5-3 hours. The mixture is cooled to -15 to -5° C. over a period of 30 minutes, and crude 2-fluorobenzenacetyl chloride (obtained above) is added over a period of 45 minutes while maintaining an internal temperature below -5° C. (bath temperature -15 to -10° C.). After the addition is completed, the mixture is warmed to 20±5° C. over a period of 1 hour, and diluted with 100 mL of toluene. This is added to 500 mL of saturated citric acid monosodium salt solution (100 g in 450 g of water) and the mixture is stirred for 5 minutes. The organic layer is separated, and washed with 1 L of sodium chloride solution (200 g in 800 g of water) in two equal portions of 500 mL each. The solution is concentrated to dryness under reduced pressure (66-76 mm Hg, bath temperature 65-70° C.) to obtain 3-[2-(2-fluorophenyl)-1-oxoethyl]-4(R)-phenyl-2-oxazolidinone as a semi-solid. The semi-solid is suspended in 450 mL of t-butyl methyl ether and the mixture is heated to reflux (53-58° C.) to obtain a solution; 225 mL of t-butyl methyl ether is then distilled off at atmospheric pressure (bath temperature 60-65° C.). The resulting mixture is cooled to 20-25° C., and stirred at this temperature for 16 hours, then cooled to -5 to 0° C. and stirred at this temperature for additional 2 hours and filtered. The resulting solid is dried under vacuum (66-76 mm Hg) at 45-50° C. for 12 hours to obtain 3-[2-(2-fluorophenyl)-1-oxoethyl]-4(R)-phenyl-2-oxazolidinone as a white crystalline solid. Alternately, 3-[2-(2-fluorophenyl)-1-oxoethyl]-4-(R)-phenyl-2-oxazolidinone is prepared as follows:

reactant | (R)-4-phenyl-2-oxazolidinone | 46.0 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | 2-fluorobenzenacetyl chloride | FC1=C(C=CC=C1)CC(=O)Cl | C8H6ClFO
reactant | citric acid monosodium salt | 500 mL, 100 g | [Na+].C(CC(O)(C(=O)O)CC(=O)O)(=O)[O-]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(2-fluorophenyl)-1-oxoethyl]-4(R)-phenyl-2-oxazolidinone | FC1=C(C=CC=C1)CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C17H14FNO3
